US06599917B1
2-Methoxymethyloxy-1-iodobenzene
216 mg of 60% oily sodium hydride was added to a mixture of 1.65 of 2-iodophenol and 20 ml of N,N-dimethylformamide under ice-cooling followed by stirring at room temperature for 30 minutes. Under ice-cooling, 570 μl of chloromethyl methyl ether was added thereto, followed by stirring for 30 minutes at room temperature. Water and ethyl acetate were added thereto. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed, to give 2.12 g of the target compound.

reactant | sodium hydride | 216 mg | [H-].[Na+]
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | chloromethyl methyl ether | 570 μl | COCCl | C2H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-Methoxymethyloxy-1-iodobenzene | 2.12 g | COCOC1=C(C=CC=C1)I | C8H9IO2
